US08012974B2
impure 2-Bromo-7-chloro-5H-pyrrolo[2,3-b]pyrazine was dissolved in DMF (30 mL). NaH (60%, 436 mg, 10.9 mmol) was added slowly. After the addition was complete stirring was continued for 30 minutes at RT. (2-Chloromethoxy-ethyl)-trimethyl-silane (1.9 mL, 10.9 mmol) was added and the reaction mixture was allowed to warm up overnight. The reaction was quenched with H2O. The aqueous layer was extracted with EtOAc. The organic layer was dried (MgSO4), filtered, concentrated, and purified by SiO2 chromatography (24 g SiO2, hexanes/EtOAc 0-35% EtOAc) to give 2.62 g of 2-bromo-7-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine as a yellow liquid (79% yield for 2 steps).

reactant | 2-Bromo-7-chloro-5H-pyrrolo[2,3-b]pyrazine | BrC=1N=C2C(=NC1)NC=C2Cl | C6H3BrClN3
reactant | NaH | 10.9 mmol, 436 mg | [H-].[Na+]
reactant | (2-Chloromethoxy-ethyl)-trimethyl-silane | 10.9 mmol, 1.9 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-bromo-7-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine | 2.62 g, 79% yield | BrC=1N=C2C(=NC1)N(C=C2Cl)COCC[Si](C)(C)C | C12H17BrClN3OSi
